US07202381B2
A. 2-(2-oxo-2-phenyl-ethylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester
(S)-1-(Carbobenzyloxy)-2-piperidinecarboxylic acid (15.8 g, 60 mmol), 2-amino-1phenyl-ethanone hydrochloride (10.30 g, 60 mmol), and HOBT (1-hydroxybenzo-triazole) (16.20 g, 120 mmol) were mixed in dichloromethane (400 mL). The stirring mixture was cooled to 0° C. and then (4-dimethylamino-butyl)-ethyl-carbodiimide (14.90 g, 78 mmol) and NMM (N-methyl-morpholine) (7.27 g, 72 mmol) were added. The reaction mixture was then warmed to room temperature. After 16 hours the reaction mixture was treated with water, and the resulting solid was filtered. The organic phase from the filtrate was separated and washed consecutively with saturated NaHCO3, 2N citric acid, and saturated NaHCO3 once again, then dried over MgSO4, filtered, and concentrated to yield the title product 2-(2-oxo-2-phenyl-ethylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester as a yellow oil, which was used without further purification.

reactant | (S)-1-(Carbobenzyloxy)-2-piperidinecarboxylic acid | 60 mmol, 15.8 g | C(=O)(OCC1=CC=CC=C1)N1[C@@H](CCCC1)C(=O)O | C14H17NO4
reactant | 2-amino-1phenyl-ethanone hydrochloride | 60 mmol, 10.30 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | HOBT | 120 mmol, 16.20 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (4-dimethylamino-butyl)-ethyl-carbodiimide | 78 mmol, 14.90 g | CN(CCCCN=C=NCC)C | C9H19N3
reactant | NMM | 72 mmol, 7.27 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(2-oxo-2-phenyl-ethylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)C(NCC(C1=CC=CC=C1)=O)=O | C22H24N2O4
